US09340547B2
b) N-o-Tolyl-3-(trifluoromethyl)-1H-pyrrole-2-carboxamide
To a solution of 1-(phenylsulfonyl)-N-o-tolyl-3-(trifluoromethyl)-1H-pyrrole-2-carboxamide (560 mg of crude material) in 12 mL of methanol was added 2 mL of an aqueous 1N solution of sodium hydroxide and the mixture was stirred at room temperature during 1 h. At the end of this period, no starting material was detected and the reaction was elaborated in the following way: methanol was evaporated and water was added basifying the mixture with saturated aqueous solution of potassium carbonate. This mixture was extracted with ethyl acetate and this organic phase was washed with water and brine, dried (Na2SO4) and concentrated to dryness affording a reddish residue. This residue was purified by flash chromatography silica (hexane/ethyl ether). Concentration of the fractions containing the compound afforded 120 mg (50%) of the title compound.

reactant | 1-(phenylsulfonyl)-N-o-tolyl-3-(trifluoromethyl)-1H-pyrrole-2-carboxamide | 560 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=C(C=C1)C(F)(F)F)C(=O)NC1=C(C=CC=C1)C | C19H15F3N2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
product | N-o-Tolyl-3-(trifluoromethyl)-1H-pyrrole-2-carboxamide | 120 mg, 50% | C1(=C(C=CC=C1)NC(=O)C=1NC=CC1C(F)(F)F)C | C13H11F3N2O
